US06087357
To a stirred mixture of (2R)-1-[3,5-bis(trifluoromethyl)benzoyl]-4-(3-hydroxypropyl)-2-(2-naphthylmethyl)piperazine (1.1 g) and triethylamine (425 mg) in dichloromethane (10 ml) was added dropwise methanesulfonyl chloride (252 mg) at ice-bath temperature. After 2 hours, the reaction mixture was washed with water and then dried over magnesium sulfate. After evaporation of the solvent, the resulting residue was chromatographed on silica gel using ethyl acetate as an eluent to give (2R)-1-[3,5-bis(trifluoromethyl)benzoyl]-2-(2-naphthylmethyl)-4-(3-methylsulfonyloxypropyl)piperazine (988 mg).

reactant | (2R)-1-[3,5-bis(trifluoromethyl)benzoyl]-4-(3-hydroxypropyl)-2-(2-naphthylmethyl)piperazine | 1.1 g | FC(C=1C=C(C(=O)N2[C@@H](CN(CC2)CCCO)CC2=CC3=CC=CC=C3C=C2)C=C(C1)C(F)(F)F)(F)F | C27H26F6N2O2
reactant | triethylamine | 425 mg | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 252 mg | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | (2R)-1-[3,5-bis(trifluoromethyl)benzoyl]-2-(2-naphthylmethyl)-4-(3-methylsulfonyloxypropyl)piperazine | 988 mg | FC(C=1C=C(C(=O)N2[C@@H](CN(CC2)CCCOS(=O)(=O)C)CC2=CC3=CC=CC=C3C=C2)C=C(C1)C(F)(F)F)(F)F | C28H28F6N2O4S
